US05430047
Step E: Preparation of 3-[1-[2-(4-Chlorophenyl)ethyl]-3-oxo-3-phenylpropyl]-benzoic acid
3-[1-(2-(4-Chlorophenyl)ethyl]-3-oxo-3-phenylpropyl]-benzoic acid, methyl ester (0.5 g, 1.22 mmol) is dissolved in diethyl ether (100 mL) and treated with potassium trimethylsilanolate (1 g, 7.8 mmol). After the mixture is stirred 18 hours, the resulting solid is collected by filtration and washed with diethyl ether. The dried cake is dissolved in water, acidified with 1N hydrochloric acid, and the resulting solid collected by filtration. Crystallization in diethyl ether-hexane provides 0.3 g of the title compound as large cottony needles; mp 93°-95° C.

reactant | 3-[1-(2-(4-Chlorophenyl)ethyl]-3-oxo-3-phenylpropyl]-benzoic acid, methyl ester | 1.22 mmol, 0.5 g | ClC1=CC=C(C=C1)CCC(CC(C1=CC=CC=C1)=O)C=1C=C(C(=O)OC)C=CC1 | C25H23ClO3
reactant | potassium trimethylsilanolate | 7.8 mmol, 1 g | C[Si]([O-])(C)C.[K+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-[1-[2-(4-Chlorophenyl)ethyl]-3-oxo-3-phenylpropyl]-benzoic acid | 0.3 g | ClC1=CC=C(C=C1)CCC(CC(C1=CC=CC=C1)=O)C=1C=C(C(=O)O)C=CC1 | C24H21ClO3
